US07544690B2
A solution of N2-(4-aminomethyl-benzyl)-N4,N4-dimethyl-quinazoline-2,4-diamine hydrochloride (50.0 mg, 0.131 mmol), 4-bromo-2-trifluoromethoxy-benzenesulfonyl chloride (53.3 mg, 0.157 mmol) and diisopropylethylamine (91 μl, 0.524 mmol) in 2-propanol (1.5 mL) was stirred at ambient temperature for 2 hr. The resulting mixture was concentrated, and the residue was purified by column chromatography (silica gel, 10% MeOH in CH2Cl2) to give 4-bromo-N-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-benzyl}-2-trifluoromethoxy-benzenesulfonamide as a white crystalline compound (40 mg, 50%).

reactant | N2-(4-aminomethyl-benzyl)-N4,N4-dimethyl-quinazoline-2,4-diamine hydrochloride | 0.131 mmol, 50.0 mg | Cl.NCC1=CC=C(CNC2=NC3=CC=CC=C3C(=N2)N(C)C)C=C1
reactant | 4-bromo-2-trifluoromethoxy-benzenesulfonyl chloride | 0.157 mmol, 53.3 mg | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
reactant | diisopropylethylamine | 0.524 mmol, 91 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 2-propanol | 1.5 mL | CC(C)O | C3H8O
product | 4-bromo-N-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-benzyl}-2-trifluoromethoxy-benzenesulfonamide | BrC1=CC(=C(C=C1)S(=O)(=O)NCC1=CC=C(C=C1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C)OC(F)(F)F | C25H23BrF3N5O3S
